US05223505
A mixture of 1,4-dihydro-1-heptyl-6-methyl-2-methylamino-4-pyrimidinone monohydrate (0.75 g, 2.9 mM) and phosphorus oxychloride (3.5 ml, an excess) was heated at a bath temperature of 130° C. for 2.5 hours. Excess phosphorus oxychloride was removed by evaporation. The residue was mixed with toluene (20 ml) and the volatile material evaporated. The procedure was repeated with a further portion of toluene (20 ml) to give 4-chloro-1-heptyl-6-methyl-2-methylaminopyrimidinium chloride as a crude solid. This material was mixed with ethanol (5 ml) and N-methylaniline (0.8 g, 7.5 mM). The solution obtained was heated at reflux for 2.5 hours. The ethanol was removed by evaporation and water (10 ml) was added to the residue. The aqueous mixture was extracted with ether (4×10 ml) and the extracts were discarded. The aqueous phase was extracted with methylene chloride (4×10 ml). Water was removed from these extracts by filtration through phase-separating filter paper and the solvent was evaporated. The brown, oily residue obtained crystallised on trituration with ether to give a white solid (0.742 g). This solid was recrystallised from acetone-ether to give 1-heptyl-6-methyl-2-methylamino-4-N-methylanilinopyrimidinium chloride as a crystalline solid (0.49 g, 46% yield), m.p. 154°-155° C.; microanalysis, found: C,65.7; H,8.6; N,14.9%; C20H31N4Cl.0.25 H2O requires C,65.3; H,8.6; N,15.2%; NMR: 0.9(3H,t,CH3), 1.3[10H,complex,(CH2)5 ], 2.36(3H,s,CH3), 2.9(3H,br,NCH3), 3.5(3H,s,N-CH3), 4.0(2H,t,NCH2), 5.8(1H,br,aromatic), 7.4-7.6(5H,complex,aromatic), 8.65(1H,br,NH).

reactant | 1,4-dihydro-1-heptyl-6-methyl-2-methylamino-4-pyrimidinone monohydrate | 2.9 mM, 0.75 g | O.C(CCCCCC)N1C(=NC(C=C1C)=O)NC
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-heptyl-6-methyl-2-methylaminopyrimidinium chloride | [Cl-].ClC1=NC(=[N+](C(=C1)C)CCCCCCC)NC | InChI=1S/C13H22ClN3.ClH/c1-4-5-6-7-8-9-17-11(2)10-12(14)16-13(17)15-3;/h10H,4-9H2,1-3H3;1H
